US08981121B2
Preparation of (S)-1,2,3,4-tetrahydro-5-methoxy-N-propyl-naphthalen-2-amine hydrochloride (IIa)
A 2 L reactor with double jacket temperature control was charged with 5-methoxy-2-aminotetraline hydrochloride (Xa) (161 g), sodium acetate (62 g), and tetrahydrofuran (750 mL). The suspension was stirred at 0° C. To that suspension were added glacial acetic acid (22 mL), sodium triacetoxyborohydride (200 g) and propionalhedyde (XIa) (48 g diluted with 50 mL of tetrahydrofuran via a dropping funnel maintaining the mass temperature below 10° C. The resulting suspension was stirred overnight at 0° C. To that suspension was slowly added a 25% solution of sodium hydroxide (250 mL) at 0° C. and the resulting mixture was let to warm up to room temperature under stirring for 30 minutes. The aqueous layer was discarded and the organic layer was washed with a 6.25% solution of sodium hydroxide (200 mL). The aqueous layer was discarded and the organic layer was heated at 50° C. To this solution concentrated hydrochloric acid (77 mL) was added over 20 minutes and the resulting thick suspension was diluted with 150 mL of tetrahydrofuran. The suspension is maintained at 50° C. for 30 minutes then rapidly cooled to 10° C. and stirred at 10° C. for 30 minutes. The product was isolated by filtration, washed 2 times with cold THF (2×200 mL) and dried under vacuum at 40° C. until constant weight to give N-Propyl MAT.HCl salt as an white solid with 78% yield.

reactant | 5-methoxy-2-aminotetraline hydrochloride | 161 g | Cl.COC1=C2CCC(CC2=CC=C1)N
reactant | sodium acetate | 62 g | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 200 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 250 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 750 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 22 mL | C(C)(=O)O | C2H4O2
product | (S)-1,2,3,4-tetrahydro-5-methoxy-N-propyl-naphthalen-2-amine hydrochloride | 78% yield | Cl.COC1=C2CC[C@@H](CC2=CC=C1)NCCC | InChI=1S/C14H21NO.ClH/c1-3-9-15-12-7-8-13-11(10-12)5-4-6-14(13)16-2;/h4-6,12,15H,3,7-10H2,1-2H3;1H/t12-;/m0./s1
